US07727988B2
5-(3-Fluoro-pyridin-4-yl)-1H-pyrimidine-2,4-dione hydrochloride (Prep67)
To a solution of 5-(3-Fluoro-pyridin-4-yl)-2,4-dimethoxy-pyrimidine (Prep 66, 725 mg, 3.1 mmol) in MeOH (50 ml) 2N HClaq (20 ml) was added. After refluxing the mixture for 1 hour, the solvents were evaporated and the crude was tritured with hexane then with iPrOH and finally with DCM to give 550 mg of the title compound (85% yield)

reactant | 5-(3-Fluoro-pyridin-4-yl)-2,4-dimethoxy-pyrimidine | 3.1 mmol, 725 mg | FC=1C=NC=CC1C=1C(=NC(=NC1)OC)OC | C11H10FN3O2
reactant | iPrOH | CC(C)O | C3H8O
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | MeOH | 2N, 50 ml | CO | CH4O
product | 5-(3-Fluoro-pyridin-4-yl)-1H-pyrimidine-2,4-dione hydrochloride | 550 mg, 85% yield | Cl.FC=1C=NC=CC1C=1C(NC(NC1)=O)=O | InChI=1S/C9H6FN3O2.ClH/c10-7-4-11-2-1-5(7)6-3-12-9(15)13-8(6)14;/h1-4H,(H2,12,13,14,15);1H
